US09302989B2
N-[4-({4-[(benzoylamino)methyl]benzyl}carbamoyl)phenyl]-5-fluoro-1,3-dihydro-2H-isoindole-2-carboxamide
The title compound was prepared as described in Example 278, substituting benzoyl chloride for acetyl chloride and N-(4-{[4-(aminomethyl)benzyl]carbamoyl}phenyl)-5-fluoro-1,3-dihydro-2H-isoindole-2-carboxamide for 5-amino-N-(4-(propylcarbamoyl)phenyl)isoindoline-2-carboxamide. 1H NMR (300 MHz, DMSO-d6) δ ppm 9.01 (t, J=6.0 Hz, 1H), 8.83 (t, J=5.9 Hz, 1H), 8.60 (s, 1H), 7.85-7.91 (m, 2H), 7.78-7.83 (m, 2H), 7.63-7.68 (m, 2H), 7.36-7.56 (m, 4H), 7.27 (s, 4H), 7.21-7.26 (m, 1H), 7.10-7.19 (m, 1H), 4.72-4.81 (m, 4H), 4.40-4.48 (m, 4H); MS (ESI(+)) m/e 523 (M+H)+.

reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
reactant | N-(4-{[4-(aminomethyl)benzyl]carbamoyl}phenyl)-5-fluoro-1,3-dihydro-2H-isoindole-2-carboxamide | NCC1=CC=C(CNC(=O)C2=CC=C(C=C2)NC(=O)N2CC3=CC=C(C=C3C2)F)C=C1 | C24H23FN4O2
reactant | 5-amino-N-(4-(propylcarbamoyl)phenyl)isoindoline-2-carboxamide | NC=1C=C2CN(CC2=CC1)C(=O)NC1=CC=C(C=C1)C(NCCC)=O | C19H22N4O2
product | N-[4-({4-[(benzoylamino)methyl]benzyl}carbamoyl)phenyl]-5-fluoro-1,3-dihydro-2H-isoindole-2-carboxamide | C(C1=CC=CC=C1)(=O)NCC1=CC=C(CNC(=O)C2=CC=C(C=C2)NC(=O)N2CC3=CC=C(C=C3C2)F)C=C1 | C31H27FN4O3
